*$
*//-----------------------------------------------------------------------// 
*//   Part No.    : APXF6R3ARA331MF61G
*//   Date        : 2023/03/07
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------// 

.SUBCKT APXF6R3ARA331MF61G_20deg-C 1 2

C1 4 2 2.92e-04
C2 5 2 6.55e-06
C3 6 2 2.55e-06
R1 3 4 9.60e-03
R2 4 5 2.25e+00
R3 5 6 1.25e-03
L1 1 3 2.60e-09

.ENDS
*$
